US08466282B2
Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (1.05 g), HOBt (361 mg) and WSC.HCl (549 mg) were dissolved in DMF (50 ml), morpholine (332 μl) and diisopropylethylamine (780 μl) were added, and the mixture was stirred at 60° C. for 4 hr. The reaction mixture was cooled to room temperature, concentrated under reduced pressure, and the residue was diluted with aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (1.14 g).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 1.05 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=C(C=C2)F)C(=O)O | C28H41FN4O6
reactant | HOBt | 361 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 549 mg | CCN=C=NCCCN(C)C.Cl
reactant | morpholine | 332 μl | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 780 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Tert-butyl (3S,5R)-3-[{[6-fluoro-1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 1.14 g | FC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1 | C32H48FN5O6
